US04409017
A mixture of ethyl 2-bromopropionate (0.64 g), 4-[N-(7-chloroisoquinolin-3-yl)-N-methylamino]phenol (0.92 g), anhydrous potassium carbonate (0.49 g) and methyl ethyl ketone was heated under reflux for a period of 5 hours. The solution was cooled, washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure and the product was purified by column chromatography over silica gel (eluant dichloromethane) to give ethyl 2-{4-[N-(7-chloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate (1.00 g) as a green oil. The assigned structure was confirmed by proton magnetic resonance spectroscopy and mass spectrometry. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.25 (3H, t); 1.60 (3H, d); 3.45 (3H, s); 4.22 (2H, q); 4.75 (1H, q); 6.52 (1H, s); 6.8-7.4 (6H, m); 7.62 (1H, m); 8.75 (1H, s).

reactant | ethyl 2-bromopropionate | 0.64 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | 4-[N-(7-chloroisoquinolin-3-yl)-N-methylamino]phenol | 0.92 g | ClC1=CC=C2C=C(N=CC2=C1)N(C)C1=CC=C(C=C1)O | C16H13ClN2O
reactant | potassium carbonate | 0.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | ethyl 2-{4-[N-(7-chloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | 1.00 g | ClC1=CC=C2C=C(N=CC2=C1)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C21H21ClN2O3
